US07041689B2
Step 1: 4-Bromo-1-isopropyl-1H-imidazole
A mixture of 4-bromo-1H-imidazole (1.0 g, 6.80 mmol) in dimethylformamide (5 mL) was stirred at 0° C., to which was added sodium hydride, 60% suspension in oil, (326 mg, 8.20 mmol). The reaction mixture was warmed to room temperature and stirred for 30 minutes, followed by dropwise addition of 2-bromopropane (0.70 mL, 7.48 mmol). The reaction mixture was stirred at room temperature for 15 hours under nitrogen, then quenched with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with water (20 mL) and extracted with 1M hydrochloric acid (3×20 mL). The combined acidic extracts were washed with ethyl acetate (20 mL), then basified with ammonium hydroxide (pH 12), and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. Preparative HPLC, eluting with an ethyl acetate-isohexane gradient, gave the product as a pale brown oil (380 mg, 30%).

reactant | 4-bromo-1H-imidazole | 6.80 mmol, 1.0 g | BrC=1N=CNC1 | C3H3BrN2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromopropane | 7.48 mmol, 0.70 mL | BrC(C)C | C3H7Br
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-1-isopropyl-1H-imidazole | 380 mg, 30% | BrC=1N=CN(C1)C(C)C | C6H9BrN2
